US08466292B2
2.1 Methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylate
According to the debenzylation/O-alkylation/saponification sequence described in Examples 1.7, 1.8 and 1.9, respectively, starting with 665 mg (1.35 mmol) of methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-(2-chlorophenyl)pyridine-2-carboxylate, 181 mg of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylic acid hydrochloride are obtained in the form of a gum.

reactant | methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-(2-chlorophenyl)pyridine-2-carboxylate | 1.35 mmol, 665 mg | COC1=CC=C(COC=2C=C(C=CC2Cl)C2=C(C=CC(=N2)C(=O)OC)C2=C(C=CC=C2)Cl)C=C1 | C27H21Cl2NO4
reactant | 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylic acid hydrochloride | 181 mg | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)O)C1=C(C=CC=C1)Cl)OCCCN(C)C
product | Methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylate | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OC)C1=C(C=CC=C1)Cl)OCCCN(C)C | C24H24Cl2N2O3
